* PSpice Model Editor - Version 9.2.1
*$
.SUBCKT IXFH50N60P3 G D S
*********************************************************************
*Note:                                                              *
* Althought models can be a useful tool in evaluating device        *
* performance, they cannot model exact device performance           *
* under all conditions, nor are they intended to replace            *
* bread boarding for final verification. Therefore IXYS does        *
* not assume any liability arsing from their use.  IXYS reserves    *
* the right to change models without prior notice. The Pspice model *
* does not constitute product data sheet. Designer should refer to  *
* the data sheet to guranteed the limit and specification.          *
*********************************************************************
** model generated on May 28, 2013  
* Node 1 -> Drain
* Node 2 -> Gate 
* Node 3 -> Source
R_ds D 9 0.125
R_gs G 70 1
L_s Sg S 1n
D_GS1 GSQ50 G GS1
D_GS2 GSQ50 S GS1

R_S S11 Sg 0.0008
E_VTH 71 70 VALUE={-0.52}
M112 9 71 S11 S11 MM111 L=1u W=60u
M111 9 70 S11 S11 MM111 L=1u W=10u
.MODEL MM111 NMOS LEVEL=1 
+IS=1e-32
+VTO=4.60
+LAMBDA=4.88605e-04
+KP=1.00 
E_rv 70 DG 70 S 1
D_DS DG D DRV
.Model DRV D
+ CJO=2.2547E-9
+ M=2.0750
+ VJ=9.5995
+ N=9
Cin G S 6.3n
*
L_bd S2 S 1n
D_1 S2 D BD
.MODEL BD D
+ IS=6.8896E-12
+ N=2.0220
+ RS=1.4763E-3
+ CJO=8.1890E-9
+ M=1.5566
+ VJ=6.6530
+ ISR=10.010E-21
+ BV=599.90
+ IBV=25.902E-3
+ TT=105.43E-9
.MODEL GS1 D
+ IS=9.7178E-15
+ ISR=79.900E-13
+ BV=30.004

.ENDS
*$
